Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Fish Containing Products / peanut
 
Attending: ___.
 
Chief Complaint:
admit for sched chemo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with a diagnosis of mediastinal B cell lymphoma who
is admitted for C4 da-R-EPOCH. 

Patient reports tolerating her prior cycles fairly well, with
only some nausea. The chest pain she had prior to diagnosis has
resolved. She does note frequent hot flashes after starting her
Lupron therapy. No recent fevers or chills. No SOB or cough. No
headache. No N/V/D. She is active at home and back to work. She
has no other complaints. 

Review of Systems:  
A full 10 point review of systems was performed and is negative
except as above.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
3 months of "achy" right greater than left chest discomfort,
vague, worse at night or when lying on her side. It was 
partially
relieved with Tylenol. There were no real triggers and it did 
not
keep her from doing any activities. She had no B symptoms-no
weight loss, fatigue, cough, shortness of breath, sweats. 
Because
of the chest discomfort she went to urgent care in late ___.
Some chest wall tenderness was elicited and rib films were done
which were negative for fracture but did suggest right hilar
enlargement.  
CT chest on ___ it showed a 5 x 8 x 9 cm anterior
mediastinal soft tissue mass. To expedite the workup she was
admitted to ___ on ___. Images were reviewed by thoracic
surgery and an ___ guided core biopsy was performed on ___.
Pathology revealed high-grade B-cell lymphoma, Ki-67 = 80-90%,
most likely primary mediastinal large B-cell lymphoma. 
Cytogenetics revealed complex karyotype consistent w high grade
lymphoma but without  IGH/BCL2 gene rearrangement or
rearrangement of the BCL6, MYC or IRF4 (MUM1) genes . PET
indicated an 8.5 cm anterior mediastinal soft tissue mass SUV 
17,
and a 9 mm left infraclavicular node, SUV 7. 

- ___: D1 rituxan 375mg/m2, D1-4 CI dox 10mg/m2/d, etop 50
mg/m2/d, VCR 1.4 mg/m2/d, and D5 cytoxan 750mg/m2. D1-5
prednisone po 60 mg/m2 bid. Port [double lumen] placed ___.  
Well
tolerated, Decrease in chest pain. On bactrim DS MWF and
acyclovir 400 bid. 
- ___ C2  Da R-EPOCH with 20% dose increase based on
ANC nadir > 500 [was 2700 on ___.  Dox 12 mg/m2/d, etop
60mg/m2/d and cytoxan 900 mg/m2. Remainder of treatment plan
remained unchanged. Admission labs were notable for elevated
transaminases which normalized gradually - suspected ___
acetominophen. 
- ___: Lupron ___ C3D1 daR-EPOCH with 20% increase to dose level 
3
based on ANC nadir > 500 [was 2200 on ___. She received Dox
14.4 mg/m2/d, etop 72 mg/m2/d, and cytoxan 1080 mg/m2. The
remainder of the treatment plan remained unchanged]. This was
well tolerated. LFTs normal. 
- ___ - PET/CT - excellent [but not complete] response to
daR-EPOCH x 3. Decrease size and avidity of mediastinal mass.
Unfortunately current size of med mass not reported. Current SUV
4.1 previously 18.5 No new sites of LAD. 
- ___ admit for C4 Da-R-EPOCH

PAST MEDICAL/SURGICAL HISTORY:  
Eczema
?h/o pilonidal cyst s/p drainage x2, 
Bartholin gland cyst
 
Social History:
___
Family History:
Mother - history of blood clots, stroke, diabetes, bipolar 
disorder, HTN 
Maternal grandmother and aunt - diabetes 
Sisters both do not take birth control due to concern for 
clotting disorder given history in their mother, though they 
have 
never been formally tested 
Cousin - ?breast cancer 

 
Physical Exam:
DISCHARGE PHYSICAL EXAM: 
Vitals: 98.0 HR 91-112  106/64  78  100%RA
Gen: Pleasant, calm, NAD 
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: No LAD. JVD not appreciably elevated. 
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3.
LINES: L POC c/d/i

 
Pertinent Results:
___ 09:22AM BLOOD WBC-4.9# RBC-3.18* Hgb-8.6* Hct-27.1* 
MCV-85 MCH-27.0 MCHC-31.7* RDW-21.2* RDWSD-62.4* Plt ___
___ 09:17AM BLOOD WBC-2.2* RBC-2.90* Hgb-8.0* Hct-24.0* 
MCV-83 MCH-27.6 MCHC-33.3 RDW-20.4* RDWSD-61.7* Plt ___
___ 05:33AM BLOOD Neuts-72* Bands-0 ___ Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-1.22* 
AbsLymp-0.46* AbsMono-0.02* AbsEos-0.00* AbsBaso-0.00*
___ 05:33AM BLOOD UreaN-12 Creat-0.5 Na-138 K-3.4 Cl-102 
HCO3-26 AnGap-13
___ 05:33AM BLOOD ALT-22 AST-10 AlkPhos-58 TotBili-0.4

CTA ___ without PE
 
Brief Hospital Course:
___ yo female with diagnosis of mediastinal B-cell lymphoma who 
is admitted for cycle 4 da-R-EPOCH.

# Mediastinal Lymphoma - She has had clinical improvement in her 
symptoms (primarily chest pain) since initiating therapy. Does 
have hot flashes now with the Lupron. 
- Rituxan, Etoposide, Doxorubicin, Vincristine, 
Cyclophosphamide, and Prednisone per protocol with ___, 
through 7.15. Antiemetics and IV fluids per protocol. Discussed 
with primary ___ oncology team. Cont Bactrim and acyclovir.  
Monitored labwork for tumor lysis syndrome daily. Pt will 
administer neupogen for after discharge on D6. has appts at ___ 
for twice weekly labwork after discharge. PET after C6

# T wave inversions on EKG
# Orthostatic hypotension - pt noted w/ profound orthostasis 
towards end of admit, with standing BP down to as low as 80 with 
HR up to 150s. Despite cont IV hydration, had remained net even 
during the admission. NO reason to be volume depleted (no blood 
loss, diarrhea, vomiting) however likely this was the etiology; 
EKGs with TWI in precordial and inferior leads, cardiac enzymes 
negative, echo reassuring, and CT without PE. Ultimately was 
given 2L bolus IVF and an additional night of hydration 
overnight after chemotherapy and orthostatics improved. 
Cardiology was consulted for the EKG changes (unfortunately 
there were no priors for comparison) and felt these were 
nonspecific changes and in the presence of a reassuring echo 
there was nothing more to do at this time. However, she should 
have baseline EKGs performed on admission prior to all future 
chemo admits for comparison and will have another echo after her 
___ cycle of chemotherapy. On discharge she was asymptomatic and 
agrees to hydrate via PO intake aggressively. Will have f/u with 
___ oncology this week.

#Transaminitis - Noted in the past, but this admit LFTs stable, 
close to normal. Pt developed transaminitis during C2. Work up 
negative, thought possibly due
to Tylenol use. Cont judicious use of APAP only.

#Chest pain - ___ mediastinal mass, present on diagnosis but 
since initiation of chemo has resolved.

# Anemia - likely from chemotherapy. Stable. no e/o blood loss

Greater than 30 minutes were spent in planning and execution of 
this discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. FoLIC Acid 1 mg PO DAILY 
3. Ondansetron 8 mg PO Q8H:PRN nausea 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 
5. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
6. TraMADol 50 mg PO Q4H:PRN pain 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
2.  Senna 8.6 mg PO BID constipation  
3.  Acyclovir 400 mg PO BID  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Ondansetron 8 mg PO Q8H:PRN nausea  
6.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
7.  Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___)  
8.  TraMADol 50 mg PO Q4H:PRN pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You tolerated chemotherapy well.
You should start using your neupogen daily at home 24 hrs after 
chemotherapy finished. (start neupogen tomorrow, ___

We found your blood pressure was low and we hydrated you with 
fluids for this. Your heart rate was elevated with standing 
suggesting further dehydration. This improved with extra fluid.
IT IS VERY IMPORTANT YOU DRINK A LOT OF FLUIDS AT HOME! call 
your doctor if you feel lightheaded or have chest pain.

Please make sure you keep up with your fluid intake!!
 
Followup Instructions:
___